US05834486
a) 1 -Allyl-9-[2-[(N-BOC)-2-piperidyl]-ethyl]- 1,5,9-tri-BOC-1,5,9-triazanonane
To a solution of 1.13 g (1.758 mmol) of 1-[2-[(N-BOC)-2-piperidyl]-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane in 11.3 ml of DMF there are added, with stirring, 0.14 g (3.5 mmol) of sodium hydride dispersion (approximately 60%) and, after 10 minutes, 0.296 ml (3.5 mmol) of allyl bromide (Fluka, Buchs, Switzerland). The reaction mixture is stirred at room temperature for 15 hours and then a further 1/3 of the original amount of sodium hydride dispersion (approximately 60%) and a further 1/3 of the original amount of allyl bromide are added, the reaction mixture is stirred at room temperature for a further 24 hours and is then concentrated by evaporation in vacuo. The residue is partitioned between water and methylene chloride, and the organic phase is washed with brine, dried over sodium sulfate and concentrated by evaporation. After purification of the residue by flash chromatography on silica gel having a particle size of 0.04-0.063 mm using a hexane/tert-butyl methyl ether mixture (7:3), the title compound is obtained in the form of a resin, Rf value=0.34 (silica gel/methylene chloride:methanol (30:1)).

reactant | 1-[2-[(N-BOC)-2-piperidyl]-ethyl]-1,5,9-tri-BOC-1,5,9-triazanonane | 1.758 mmol, 1.13 g | C(=O)(OC(C)(C)C)N1C(CCCC1)CCN(CCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C33H62N4O8
reactant | sodium hydride | 3.5 mmol, 0.14 g | [H-].[Na+]
reactant | allyl bromide | 3.5 mmol, 0.296 ml | C(C=C)Br | C3H5Br
solvent | DMF | 11.3 ml | CN(C)C=O | C3H7NO
product | 1 -Allyl-9-[2-[(N-BOC)-2-piperidyl]-ethyl]- 1,5,9-tri-BOC-1,5,9-triazanonane | C(C=C)N(CCCN(CCCN(C(=O)OC(C)(C)C)CCC1N(CCCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C36H66N4O8
